US04447604
A solution of 3-bromo-3-(p-chlorobenzoyl) propionic acid (7.29 g, 0.025 moles) in methanol (40 ml) was mixed with a solution of 5-methyl-3,4,5,6-tetrahydro-s-triazin-2(1H)-thione (3.27 g, 0.025 moles) in the same solvent (150 ml) and left for one hour. Evaporation of the solvent gave 7-carboxymethyl-6-(p-chlorophenyl)-6-hydroxy-3-methyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine hydrobromide as a pale yellow solid (9.6 g), m.p. 111°-113° C.

reactant | 3-bromo-3-(p-chlorobenzoyl) propionic acid | 0.025 moles, 7.29 g | BrC(CC(=O)O)C(C1=CC=C(C=C1)Cl)=O | C10H8BrClO3
reactant | 5-methyl-3,4,5,6-tetrahydro-s-triazin-2(1H)-thione | 0.025 moles, 3.27 g | CN1CNC(NC1)=S | C4H9N3S
solvent | methanol | 40 ml | CO | CH4O
product | 7-carboxymethyl-6-(p-chlorophenyl)-6-hydroxy-3-methyl-3,4,6,7-tetrahydro-2H-thiazolo[3,2-a]-s-triazine hydrobromide | 9.6 g | Br.C(=O)(O)CC1C(N2C(=NCN(C2)C)S1)(O)C1=CC=C(C=C1)Cl | InChI=1S/C14H16ClN3O3S.BrH/c1-17-7-16-13-18(8-17)14(21,11(22-13)6-12(19)20)9-2-4-10(15)5-3-9;/h2-5,11,21H,6-8H2,1H3,(H,19,20);1H
